US06403578B1
Preparation of 8-[[4-(aminoiminomethyl)benzoyl]amino]-4,5-dihydro-2-methyl-3-oxo-4-(2-phenylethyl)-3H-1,4-benzodiazepine
Using the procedure of Preparation 26(e), except substituting TFA for hydrochloric acid, yielded a mixture of 8-[[4-(aminoiminomethyl)benzoyl]-amino]-2,3,4,5-tetrahydro-3-oxo-4-(2-phenylethyl)-1H-1,4-benzodiazepine-2-acetic acid and the title compound (80 mg) which were separated by HPLC RT 24.8 min (YMC ODS AQ, 50×250 mm, 85 mL/min, 30% AN/W-TFA, UV detection at 220 nm); 1H NMR (400 MHz, MeOD4) δ8.1(d, 2H), 7.9(d, 2H), 7.75(s, 1H),7.60(d, 1H), 7.35(d, 1H), 7.22-7.12(m, 5H), 4.20(m, 2H), 3.70(m, 2H), 2.85(m, 2H), 2.42(s, 3H); MS(ES) m/e 440 [M+H]+.

reactant | hydrochloric acid | Cl | ClH
reactant | 8-[[4-(aminoiminomethyl)benzoyl]-amino]-2,3,4,5-tetrahydro-3-oxo-4-(2-phenylethyl)-1H-1,4-benzodiazepine-2-acetic acid | NN=CC1=CC=C(C(=O)NC2=CC3=C(CN(C(C(N3)CC(=O)O)=O)CCC3=CC=CC=C3)C=C2)C=C1 | C27H27N5O4
product | 8-[[4-(aminoiminomethyl)benzoyl]amino]-4,5-dihydro-2-methyl-3-oxo-4-(2-phenylethyl)-3H-1,4-benzodiazepine | NN=CC1=CC=C(C(=O)NC2=CC3=C(CN(C(C(=N3)C)=O)CCC3=CC=CC=C3)C=C2)C=C1 | C26H25N5O2
